US08236963B2
[5-chloro-1′-[(5-methyl-3-phenylisoxazol-4-yl)methyl]-2,2′-dioxospiro[indole-3,3′-pyrrolidin]-1(2H)-yl]acetic acid
An ice-cold solution of tert-butyl [5-chloro-1′-[(5-methyl-3-phenylisoxazol-4-yl)methyl]-2,2′-dioxospiro[indole-3,3′-pyrrolidin]-1(2H)-yl]acetate, intermediate 42 (80.00 mg; 0.15 mmol) in DCM (8.00 ml) was treated with trifluoroacetic acid (2.00 ml). After stirring at room temperature for 5 h, the solvents were removed in vacuo. Toluene was added twice and removed in vacuo to give the titla compound as a white solid in 91% yield (96.3% purity by HPLC). MS (ESI+): 466.3; MS (ESI−): 464.4

reactant | tert-butyl [5-chloro-1′-[(5-methyl-3-phenylisoxazol-4-yl)methyl]-2,2′-dioxospiro[indole-3,3′-pyrrolidin]-1(2H)-yl]acetate | ClC=1C=C2C(=CC1)N(C(C21C(N(CC1)CC=1C(=NOC1C)C1=CC=CC=C1)=O)=O)CC(=O)OC(C)(C)C | C28H28ClN3O5
reactant | trifluoroacetic acid | 2.00 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 8.00 ml | C(Cl)Cl | CH2Cl2
product | [5-chloro-1′-[(5-methyl-3-phenylisoxazol-4-yl)methyl]-2,2′-dioxospiro[indole-3,3′-pyrrolidin]-1(2H)-yl]acetic acid | 91% yield | ClC=1C=C2C(=CC1)N(C(C21C(N(CC1)CC=1C(=NOC1C)C1=CC=CC=C1)=O)=O)CC(=O)O | C24H20ClN3O5
